US04803284
Preparation of methyl 2-cyano-4,4-dimethoxybutyrate (Compound IV)
A vigorously stirred suspension of sodium hydride (36 g, 1.5 mole) in a mixture of 1400 ml of anhydrous N,N-dimethylformamide and 450 ml of anhydrous benzene was cooled to -10° C. under an argon atmosphere and methyl cyanoacetate (163.5 g, 1.65 mole) dissolved in 150 ml of anhydrous benzene was added dropwise over a period of 60 minutes. The temperature of this solution was allowed to slowly reach the room temperature and further stirred for 60 minutes until all the sodium hydride dissolved. A solution of bromoacetaldehyde dimethyl acetal (228.2 g, 1.35 mole) was added at once and the temperature of the reaction mixture was slowly rised to about 100° C. over a period of 60 minutes and further maintained for additional 120 minutes until the precipitation of all NaBr occurred. The solution was filtered, and the filtrate was concentrated to a small volume by evaporation under vacuum and then partitioned between ether and water. The ether portion was washed with water, dried over anhydrous Na2SO4 which was then removed by filtration, and evaporated to leave a liquid residue. This liquid was distilled at reduced pressure. The fraction distilling at 65°-68° C. and 0.15 Torr was collected yielding 83.2 g (32.9% theory).

reactant | sodium hydride | 1.5 mole, 36 g | [H-].[Na+]
reactant | methyl cyanoacetate | 1.65 mole, 163.5 g | C(#N)CC(=O)OC | C4H5NO2
reactant | bromoacetaldehyde dimethyl acetal | 1.35 mole, 228.2 g | COC(CBr)OC | C4H9BrO2
reactant | NaBr | [Na+].[Br-]
solvent | N,N-dimethylformamide | 1400 ml | CN(C=O)C | C3H7NO
solvent | benzene | 450 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | methyl 2-cyano-4,4-dimethoxybutyrate | C(#N)C(C(=O)OC)CC(OC)OC | C8H13NO4
